US04027038
2,2'-[Ureylenebis(m-phenylenecarbonylimino)]di-1,5-naphthalenedisulfonic acid tetrasodium salt
To a stirred solution of 10.0 g of 2-(m-aminobenzamido)-1,5-naphthalenedisulfonic acid disodium salt prepared as in Example 2) and 22.4 g of anhydrous sodium carbonate in 250 ml of water is bubbled in phosgene at room temperature for 35 minutes before a thick translucent gel is formed. The gas diffuser is removed and stirring speed is increased considerably. The resulting mixture is changed to a white solid after about 20 minutes of stirring (at this point the mixture is not acid to Congo Red). The gas diffuser is reinserted and phosgenation is continued for an additional hour at room temperature then the acid mixture is neutralized with 12 ml of 3N sodium hydroxide. The mixture is then filtered over a 48 hour period to obtain a moist paste which is slurried with about 125-150 ml of 80% ethyl alcohol then is filtered and is oven dried at 120° C. overnight to give the product of the example.

reactant | 2-(m-aminobenzamido)-1,5-naphthalenedisulfonic acid disodium salt | 10.0 g | [Na+].[Na+].NC=1C=C(C(=O)NC2=C(C=3C=CC=C(C3C=C2)S(=O)(=O)[O-])S(=O)(=O)[O-])C=CC1
reactant | sodium carbonate | 22.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl alcohol | about 125-150 ml | C(C)O | C2H6O
solvent | water | 250 ml | O | H2O
product | 2,2'-[Ureylenebis(m-phenylenecarbonylimino)]di-1,5-naphthalenedisulfonic acid tetrasodium salt | [Na+].[Na+].[Na+].[Na+].N(C(=O)NC1=CC(=CC=C1)C(=O)NC1=C(C=2C=CC=C(C2C=C1)S(=O)(=O)[O-])S(=O)(=O)[O-])C1=CC(=CC=C1)C(=O)NC1=C(C=2C=CC=C(C2C=C1)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C35H26N4O15S4.4Na/c40-33(38-27-15-13-23-25(31(27)57(49,50)51)9-3-11-29(23)55(43,44)45)19-5-1-7-21(17-19)36-35(42)37-22-8-2-6-20(18-22)34(41)39-28-16-14-24-26(32(28)58(52,53)54)10-4-12-30(24)56(46,47)48;;;;/h1-18H,(H,38,40)(H,39,41)(H2,36,37,42)(H,43,44,45)(H,46,47,48)(H,49,50,51)(H,52,53,54);;;;/q;4*+1/p-4
